* source MISSION_5_OPAMP
X_U1A         N14720 LPF_OUT VCC 0 LPF_OUT TLC1078/101/TI
R_R3         EI N14716  {R} TC=0,0 
R_R1         N14716 N14720  {R} TC=0,0 
C_C2         0 N14720  {C}  TC=0,0 
C_C3         N14716 LPF_OUT  {2*C}  TC=0,0 
V_V2         VCC 0 5Vdc
R_R4         VCC REF  {R} TC=0,0 
R_R5         REF 0  {R} TC=0,0 
C_C4         0 REF  1u  TC=0,0 
X_U1B         N15354 N15399 VCC 0 N15399 TLC1078/101/TI
C_C5         LPF_OUT N15350  {C}  TC=0,0 
C_C6         N15350 N15354  {C}  TC=0,0 
R_R6         N15350 N15399  {R} TC=0,0 
R_R7         REF N15354  {100*R} TC=0,0 
R_R8         0 N16440  10k TC=0,0 
R_R9         N16440 N16482  10k TC=0,0 
C_C7         N15399 N17201  1u  TC=0,0 
R_R10         REF N17201  10k TC=0,0 
V_V4         EI 0  
+SIN 0 0.25 1k 0 0 0
X_U2B         N17201 N16440 VCC 0 N16482 TLC1078/101/TI
.PARAM  c=1500pf r=1k
