* source MISSION_5_OPAMP
X_U1A         N14720 LPF_OUT VCC 0 LPF_OUT TLC1078/101/TI
R_R3         E1 N14716  {R} TC=0,0 
R_R1         N14716 N14720  {R} TC=0,0 
C_C2         0 N14720  {C}  TC=0,0 
C_C3         N14716 LPF_OUT  {2*C}  TC=0,0 
V_V2         VCC 0 5Vdc
R_R4         VCC REF  {R} TC=0,0 
R_R5         REF 0  {R} TC=0,0 
C_C4         0 REF  1u  TC=0,0 
X_U1B         N15354 N15399 VCC 0 N15399 TLC1078/101/TI
C_C5         LPF_OUT N15350  {5*C}  TC=0,0 
C_C6         N15350 N15354  {5*C}  TC=0,0 
R_R6         N15350 N15399  {R} TC=0,0 
R_R7         REF N15354  {2*R} TC=0,0 
X_U2B         REF N20451 VCC 0 E1 TLC1078/101/TI
C_C7         E2 N20447  360n  TC=0,0 
R_R8         N20447 N20451  3k TC=0,0 
R_R9         N20451 E1  30k TC=0,0 
V_V3         E2 0  
+SIN 2.5 1m 1k 0 0 0
.PARAM  c=1500pf r=7.5k
